US07285549B2
Benzylsulfamic acid [6-chloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidinyl]-amide (0.7 g) was prepared from 4,6-dichloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidine (1 g) and benzylsulfamic acid amide potassium salt (1.21 g) according to the procedure described in Referential Example 15. LC-MS: tR=5.13; [M+H]+=456.91.

reactant | 4,6-dichloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidine | 1 g | ClC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Cl)Cl | C11H7Cl3N2O2
reactant | benzylsulfamic acid amide potassium salt | 1.21 g | [K].C(C1=CC=CC=C1)NS(N)(=O)=O
product | Benzylsulfamic acid [6-chloro-5-(2-chloro-5-methoxy-phenoxy)-pyrimidinyl]-amide | 0.7 g | ClC1=C(C=NC(=N1)NS(NCC1=CC=CC=C1)(=O)=O)OC1=C(C=CC(=C1)OC)Cl | C18H16Cl2N4O4S
